US04409226
Add dropwise with stirring a solution of 1.24 gm acetyl chloride in 10 ml THF to a cooled solution of 3.2 gm of 2-aminomethyl-3-(2-phenylethyl)pyridine and 2.3 ml triethylamine in 100 ml THF. Warm the reaction mixture to room temperature and then stir for an additional 0.5 hour. Filter off the triethylamine hydrochloride and evaporate the filtrate under reduced pressure. Chromatograph on silica gel using 40% THF in chloroform to obtain 2-acetamidomethyl-3-(2-phenylethyl)pyridine.

reactant | acetyl chloride | 1.24 gm | C(C)(=O)Cl | C2H3ClO
reactant | 2-aminomethyl-3-(2-phenylethyl)pyridine | 3.2 gm | NCC1=NC=CC=C1CCC1=CC=CC=C1 | C14H16N2
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-acetamidomethyl-3-(2-phenylethyl)pyridine | C(C)(=O)NCC1=NC=CC=C1CCC1=CC=CC=C1 | C16H18N2O
